US06635640B2
3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-pyridin-2-yl-1,3-dihydroindol-2-one
A mixture of 4-pyridin-2-yl-1,3-dihydroindol-2-one (31.5 mg, 0.15 mmol), 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (37.4 mg, 0.15 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated in a sealed tube at 70° C. for 6 hours. The reaction was concentrated and the residue was re-crystallized from ethyl acetate and hexane to give the title compound.

reactant | 4-pyridin-2-yl-1,3-dihydroindol-2-one | 0.15 mmol, 31.5 mg | N1=C(C=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.15 mmol, 37.4 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-pyridin-2-yl-1,3-dihydroindol-2-one | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C1=NC=CC=C1)=O | C26H27N5O2
